US07109186B2
N,N-Bis-(4-fluoro-benzyl)-acetamide (15.0 grams, 54.5 mmol) and dimethyloxalate (9.6 grams, 81.3 mmol) were dissolved in 54 mL of THF. After cooling to 0° C. 108 mL of 1N LiHMDS (THF) was added dropwise. The reaction mixture was stirred 1 hr then quenched with 1N HCl. The resulting mixture was extracted with CH2Cl2, dried over Na2SO4, filtered and the solvent removed under vacuum. The product was purified by flash column chromatography (SiO2, 80:20 hexanes/EtOAc) to yield 10 grams (53% yield) of 3-[bis-(4-fluoro-benzyl)-carbamoyl]-2-hydroxy-acrylic acid methyl ester as a solid. Mp=118–120° C. Anal. calcd for C19H17F2NO4: C, 63.15; H, 4.74; N, 3.87. found: C, 62.97; H, 4.72; N, 3.81. 1H NMR (500 MHz, CDCl3) δ: 3.87 (s, 3), 4.46 (s, 2), 4.58 (s, 2), 6.32 (s, 1), 7.00–7.26 (overlapping m, 8). 13C NMR (125 MHz, CDCl3) δ: 47.34, 49.35, 53.03, 93.34, 115.66, 115.83, 116.00, 116.18, 128.45, 128.52, 130.03, 130.10, 131.09, 131.93, 131.95, 160.29, 161.44, 161.51, 163.10, 163.41, 163.47, 171.36.

reactant | N,N-Bis-(4-fluoro-benzyl)-acetamide | 54.5 mmol, 15.0 grams | FC1=CC=C(CN(C(C)=O)CC2=CC=C(C=C2)F)C=C1 | C16H15F2NO
reactant | dimethyloxalate | 81.3 mmol, 9.6 grams | COC(C(=O)OC)=O | C4H6O4
reactant | LiHMDS | 1N, 108 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 54 mL | C1CCOC1 | C4H8O
product | 3-[bis-(4-fluoro-benzyl)-carbamoyl]-2-hydroxy-acrylic acid methyl ester | 10 grams, 53% yield | COC(C(=CC(N(CC1=CC=C(C=C1)F)CC1=CC=C(C=C1)F)=O)O)=O | C19H17F2NO4
